US05958967
(±)-cis-6-Methoxy-3-phenyl-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane
Lithium aluminium hydride (0.96 g, 2.54 mmol) was added in small portions to a stirred solution of 4-(4-acetoxyphenyl)-3-phenyl-6-methoxy-coumarin (0.49 g, 1.27 mmol) in tetrahydrofuran (75 ml). The resulting mixture was stirred for 30 min., 6M hydrochloric acid (4 ml) added dropwise, and the mixture heated to 65° C. for 3 h. The mixture was cooled to room temperature, diluted with 100 ml water, and the product extracted into ethyl acetate (2×100 ml). The extracts were washed with brine, dried over sodium sulfate and evaporated to give a yellow gum. This gum was dissolved in ethanol (100 ml), and palladium on carbon (5%, 0.045 g, 0.02 mmol) added, then the mixture was hydrogenated for 18 h. The catalyst was removed by filtration and the solvents evaporated to give an orange gum, which was vacuum dried. The gum was dissolved in dry acetone (20 ml) then potassium carbonate (1.87 g, 13.50 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (0.257 g, 1.51 mmol) and sodium iodide (0.01 g, catalyst) were added and the mixture heated to 60° C. for 20 h. The inorganic solids were removed by filtration and the solvent removed to give an orange gum, which was purified by column chromatography on silica gel 60 with 9:1 dichloromethane/methanol eluent. This gave the product as a pale orange gum, which was vacuum dried.

reactant | Lithium aluminium hydride | 2.54 mmol, 0.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-acetoxyphenyl)-3-phenyl-6-methoxy-coumarin | 1.27 mmol, 0.49 g | C(C)(=O)OC1=CC=C(C=C1)C1=C(C(OC2=CC=C(C=C12)OC)=O)C1=CC=CC=C1 | C24H18O5
reactant | hydrochloric acid | 6M, 4 ml | Cl | ClH
reactant | potassium carbonate | 13.50 mmol, 1.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 1.51 mmol, 0.257 g | Cl.ClCCN1CCCC1
reactant | sodium iodide | 0.01 g | [I-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.02 mmol, 0.045 g | [Pd] | Pd
product | (±)-cis-6-Methoxy-3-phenyl-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | COC=1C=C2[C@@H]([C@@H](COC2=CC1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H31NO3
